US09260420B2
To a solution of n-hexylalcohol (50.5 mg) in tetrahydrofuran (5 ml) was added with stirring under ice-cooling 60% sodium hydride (18 mg) by small portions, and the mixture was stirred at the same temperature for 0.5 hr, a solution of carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester phenyl ester (240 mg) in tetrahydrofuran (1 ml) was added dropwise, and the mixture was stirred under ice-cooling for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to give carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester hexyl ester (30 mg).

reactant | n-hexylalcohol | 50.5 mg | C(CCCCC)O | C6H14O
reactant | sodium hydride | 18 mg | [H-].[Na+]
reactant | carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester phenyl ester | 240 mg | C1(=CC=CC=C1)OC(OCN1C(C=CC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)=O)=O | C33H33N3O5S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester hexyl ester | 30 mg | C(CCCCC)OC(OCN1C(C=CC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)=O)=O | C33H41N3O5S
